US04172151
To a stirred solution of 15 g. (0.0504 mole) of 4-(4'-aminophenyl)-2,6-di(t-butyl)phenol in 75 ml. of dichloromethane is added dropwise 5.37 g. (0.0504 mole) of n-butyroyl chloride. The reaction is immediate. The solvent is removed by evaporation, and the solid residue is recrystallized, first from aqueous ethanol, then from heptane to provide 4-(4'-butyramidophenyl)-2,6-di(t-butyl)phenol, m.p. 180°-181° C.

reactant | 4-(4'-aminophenyl)-2,6-di(t-butyl)phenol | 0.0504 mole | NC1=CC=C(C=C1)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C20H27NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(4'-butyramidophenyl)-2,6-di(t-butyl)phenol | C(CCC)(=O)NC1=CC=C(C=C1)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C24H33NO2
